US04394378
Preparation of 3-(Trimethyoxysilyl)propyldidecylmethyl Ammonium Chloride
In a 12-liter 3-neck round bottom reaction flask equipped with stirrer, thermometer and condenser was placed 4746 grams (15.2 moles) of didecylmethylamine and 3160.7 grams (15.9 moles) 3-chloropropyltrimethoxysilane. The solution was stirred with heating at 110° C. under a nitrogen atmosphere for 48 hours. The dark yellow/orange liquid was then placed under vacuum (5 torr), and approximately 135 mls. residual 3-chloropropyltrimethoxysilane was removed. The remaining product was then added slowly to 7750 grams of methanol with stirring to produce a product containing 50% active material.

reactant | didecylmethylamine | 15.2 moles, 4746 grams | C(CCCCCCCCC)N(C)CCCCCCCCCC | C21H45N
reactant | 3-chloropropyltrimethoxysilane | 15.9 moles, 3160.7 grams | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
product | 3-(Trimethyoxysilyl)propyldidecylmethyl Ammonium Chloride | [Cl-].CO[Si](CCC[N+](C)(CCCCCCCCCC)CCCCCCCCCC)(OC)OC | InChI=1S/C27H60NO3Si.ClH/c1-7-9-11-13-15-17-19-21-24-28(3,25-22-20-18-16-14-12-10-8-2)26-23-27-32(29-4,30-5)31-6;/h7-27H2,1-6H3;1H/q+1;/p-1
